US06300316B1
N-(tert-Butoxycarbonyl)-2-(2-Methoxyphenyl)-4-methoxypiperidine
To a solution of N-(tert-butoxycarbonyl)-2-(2-methoxyphenyl)-4-hydroxypiperidine (910 mg, 2.94 mmol) in DMF (10 mL) at 0° C. was added methyl iodide (0.92 mL, 14.8 mmol) and NaH (236 mg, 5.9 mmol) and the resulting suspension was stirred at room temperature for 2 hours. The reaction mixutre was quenched with H2O at 0° C., EtOAc was added, and the aqueous layer was extracted with EtOAc (×4). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, and concentrated in vacuo to provide the title compound as a colorless oil (898 mg). 1H NMR (CDCl3, 400 MHz) δ:3.82 (3H, s, OMe), 3.10 (3H, s, OMe), and 1.22 (9H, s, Bu-t).

reactant | N-(tert-butoxycarbonyl)-2-(2-methoxyphenyl)-4-hydroxypiperidine | 2.94 mmol, 910 mg | C(C)(C)(C)OC(=O)N1C(CC(CC1)O)C1=C(C=CC=C1)OC | C17H25NO4
reactant | methyl iodide | 14.8 mmol, 0.92 mL | CI | CH3I
reactant | NaH | 5.9 mmol, 236 mg | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(tert-Butoxycarbonyl)-2-(2-Methoxyphenyl)-4-methoxypiperidine | 898 mg | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC)C1=C(C=CC=C1)OC | C18H27NO4
